US06545016B1
Using the general method of Example 12 Part E, tert-butyl 4-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]butylcarbamate (3.41 g, 8.51 mmol) was reacted with trimethyl orthobutyrate (1.50 mL, 9.37 mmol) to provide 3.2 g of crude tert-butyl 4-(6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)butylcarbamate as purplish semisolid.

reactant | tert-butyl 4-[(3-amino-5,6-dimethyl-2-phenoxypyridin-4-yl)amino]butylcarbamate | 8.51 mmol, 3.41 g | NC=1C(=NC(=C(C1NCCCCNC(OC(C)(C)C)=O)C)C)OC1=CC=CC=C1 | C22H32N4O3
reactant | trimethyl orthobutyrate | 9.37 mmol, 1.50 mL | C(CCC)(OC)(OC)OC | C7H16O3
product | tert-butyl 4-(6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridin-1-yl)butylcarbamate | 3.2 g | CC1=C(C2=C(C(=N1)OC1=CC=CC=C1)N=C(N2CCCCNC(OC(C)(C)C)=O)CCC)C | C26H36N4O3
